US05177075
3,4-Dihydro-5-hydroxy-1(2H)-isoquinolinone
A mixture of 10.0 g (62.0 mmol) of 1,5-dihydroxyisoquinoline in 500 ml of HOAc and 2 g of 20% Pd-C was hydrogenated at room temperature until the required amount of hydrogen was absorbed. The solution was filtered and concentrated. The resulting solid was recrystallized from water (200 ml) to give 8.74 g (86%) of product; mp 195°-198°.

reactant | 1,5-dihydroxyisoquinoline | 62.0 mmol, 10.0 g | OC1=NC=CC2=C(C=CC=C12)O | C9H7NO2
reactant | hydrogen | [H][H] | H2
solvent | HOAc | 500 ml | CC(=O)O | C2H4O2
catalyst | Pd-C | 2 g | [Pd] | Pd
product | 3,4-Dihydro-5-hydroxy-1(2H)-isoquinolinone | 8.74 g, 86% | OC1=C2CCNC(C2=CC=C1)=O | C9H9NO2
